US07652061B2
To a stirred suspension of sodium hydride (0.25 g, 6.3 mmol) in anhydrous THF (20 mL) is added 3-(t-butyl-dimethyl-silanyloxy)-benzenethiol (1.3 g, 5.22 mmol) at RT. After 10 min, the title A compound, (R)-1-chlorocarbonyl-pyrrolidine-2-carboxylic acid ethyl ester (1.1 g, 5.22 mmol) is added and the reaction is stirred for 24 h. The reaction mixture is diluted with ethyl acetate, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated at reduced pressure. The crude product is purified on a Biotage 40M column using 25% ethyl acetate in hexane to yield (R)-1-[3-(t-butyl-dimethyl-silanyloxy)-phenyl-sulfanylcarbonyl]-pyrrolidine-2-carboxylic acid ethyl ester as a clear oil.

reactant | sodium hydride | 6.3 mmol, 0.25 g | [H-].[Na+]
reactant | 3-(t-butyl-dimethyl-silanyloxy)-benzenethiol | 5.22 mmol, 1.3 g | C(C)(C)(C)[Si](OC=1C=C(C=CC1)S)(C)C | C12H20OSSi
reactant | (R)-1-chlorocarbonyl-pyrrolidine-2-carboxylic acid ethyl ester | 5.22 mmol, 1.1 g | C(C)OC(=O)[C@@H]1N(CCC1)C(=O)Cl | C8H12ClNO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-1-[3-(t-butyl-dimethyl-silanyloxy)-phenyl-sulfanylcarbonyl]-pyrrolidine-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1N(CCC1)C(=O)SC1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C | C20H31NO4SSi
